US04000277
7.6 g. of 3-ethyl-3,11-dihydro-6H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[4,3-d]pyrimidin-6-one (0.03 mol.) are refluxed with stirring in 100 ml. of diethyleneglycol dimethylether together with 1.4 g. of sodium (0.06 mol.). After this time, 11.5 g. of 1-bromo-3-methylbutane (0.075 mol) are added and the mixture is refluxed for 16 hours. The solvent is distilled off and the residue is crystallized with methanol, filtered and washed with water to obtain 3-ethyl-3,11-dihydro-11-(3-methylbutyl)-6H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[4,3-d]pyrimidin-6-one, yield 4.1 g. (42%); m.p. 167°-168° (isopropanol).

reactant | 3-ethyl-3,11-dihydro-6H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[4,3-d]pyrimidin-6-one | 0.03 mol | C(C)N1N=CC2=C1N=CC1=C2NC=2N(C1=O)N=CC2 | C12H10N6O
reactant | sodium | 0.06 mol | [Na] | Na
reactant | 1-bromo-3-methylbutane | 0.075 mol | BrCCC(C)C | C5H11Br
solvent | diethyleneglycol dimethylether | COCCOCCOC | C6H14O3
product | 3-ethyl-3,11-dihydro-11-(3-methylbutyl)-6H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[4,3-d]pyrimidin-6-one | C(C)N1N=CC2=C1N=CC1=C2N(C=2N(C1=O)N=CC2)CCC(C)C | C17H20N6O
